US05928562
Preparation of 5-Octyloxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)-2,3-difluorophenyl]pyrimidine
The title compound was prepared essentially as in Example 12 by combining 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)-2,3-difluorophenyl)pyrimidine (1.0 g, 1.4 mmol, prepared essentially as described in DE 4,220,065) with iodooctane (0.31 g, 1.5 mmol). The resulting crude product was isolated essentially as described in Example 3 and purified by chromatography on silica gel, eluting with toluene, followed by Kugelrohr distillation (200° C. at 0.15 torr) to provide a yield of 0.3 g.

reactant | 5-hydroxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)-2,3-difluorophenyl)pyrimidine | OC=1C=NC(=NC1)C1=C(C(=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C21H13F17N2O5
reactant | iodooctane | 1.5 mmol, 0.31 g | ICCCCCCCC | C8H17I
product | 5-Octyloxy-2-[4-(3-(2-(2-(nonafluorobutoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)-2,3-difluorophenyl]pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=C(C(=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F)F | C29H29F17N2O5
